Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo M with HTN and prior GI bleeding attributed to deverticula
who is admitted with painless BRBPR. Pt reports three episodes 
of
bright red blood per rectum that started acutely on ___
morning. Says that he had about 250 cc's of blood in total. No
associated pain or cramping. This was similar to prior episodes
in ___ and ___. Pt felt a bit faint but no LOC. He presented 
to
the ED for evaluation. 

In the ED, pt hemodynamically stable. H/H was 13.3/39.4. Rectal
revealed bright blood in rectal vault. Pt admitted for further
management. 

On arrival to the floor, pt reports that he feels well. No
further bleeding since AM prior to ED presentation. He reports
constipation the day before with significant straining and need
to take docusate. Denies abdominal pain, fevers, chills.

Patient had similar bleeding in ___ and was initially evaluated
with flex sig that showed old blood in the colon. Subsequent
colonoscopy showed sigmoid diverticulosis but no other sources 
of
bleeding. He had another episode in the ___, he had
another episode that self resolved at home. He was seen by Dr.
___ in colorectal surgery. It was felt that better
localization of diverticular source would be needed.   

ROS: A 10-point review of systems is negative except as stated 
in
the HPI.

 
Past Medical History:
Hypertension
B12 deficiency
s/p inguinal hernia repair
s/p partial colectomy in ___ for removal of polyp per pt,
but for diverticulitis per chart
s/p cholecystectomy           
 
Social History:
___
Family History:
Father had colon cancer at age ___. Sister had colon cancer at 
age
___. Sister has uterine cancer at age ___. 

 
Physical Exam:
Admission physical exam
VS - 98.6 174/87 65 98% RA   
GEN - NAD
HEENT - NCAT
NECK - supple, no LAD
CV - rrr, no r/m/g
RESP - clear b/l
ABD - soft, nt/nd, +bs
EXT - no edema
SKIN - no rashes
NEURO - alert and oriented x 3, no focal deficits
PSYCH - calm

Discharge physical exam
97.4 PO 157 / 77 57 16 98 RA 
Gen - no distress, sitting up comfortably in bed
HEENT - nc/at, moist oral mucosa, no OP lesion
Neck - supple, no LAD
___ - rrr (HR ___, s1/2, no murmurs
Lungs - cta b/l, no w/r/r
GI - soft, NT, ND, +BS
Ext - no edema or cyanosis
Skin - warm, dry, no rashes
Psych - calm, cooperative
Neuro - non focal, seen walking around patient unit
Rectal - performed by GI team - "nonbleeding external 
hemorrhoids, scant red blood in rectal vault"
 
Pertinent Results:
___ 12:45PM BLOOD WBC-9.1 RBC-4.84 Hgb-14.7 Hct-42.5 MCV-88 
MCH-30.4 MCHC-34.6 RDW-12.7 RDWSD-41.1 Plt ___
___ 07:55AM BLOOD WBC-8.0 RBC-4.86 Hgb-14.7 Hct-42.9 MCV-88 
MCH-30.2 MCHC-34.3 RDW-12.6 RDWSD-40.9 Plt ___
___ 03:51PM BLOOD WBC-8.5 RBC-4.39* Hgb-13.3* Hct-39.4* 
MCV-90 MCH-30.3 MCHC-33.8 RDW-13.0 RDWSD-42.8 Plt ___
___ 07:55AM BLOOD Glucose-91 UreaN-13 Creat-0.7 Na-136 
K-4.7 Cl-94* HCO3-23 AnGap-19*
___ 07:55AM BLOOD ALT-10 AST-19 AlkPhos-65 TotBili-1.___ yo M with HTN and prior painless lower GI bleeding attributed 
to diverticula who is now admitted with recurrent BRBPR. He 
reported 250cc of blood and subsequently had approximately 100cc 
of blood overnight the night of admission. His H&H remained 
stable (increased actually) and his vitals remained stable, and 
his bleeding subsided with soft brown bowel movements. He was 
seen in consultation by gastroenterology who felt that his 
bleeding was more likely hemorrhoidal in the setting of holding 
his home Colace/senna to reduce his number of pills, and that 
diverticular was less likely given bleeding self resolved. 

# Lower GI bleeding
Likely hemorrhoidal in nature, less likely diverticular. Had 
some scant bleeding the night of admission but subsequently soft 
brown stool. He was started on a PO diet and his repeat H&H was 
improved from the time of admission. Given his resolution of 
symptoms, endoscopic evaluation was not felt to be warranted. He 
was advised to continue his bowel regimen regularly to prevent 
straining with defecation. 

# HTN
Resumed on home amlodipine. His benazepril was held ___ blood 
pressure monitoring and he was advised to resume upon going home 
since his pressures started to elevate into the 150s by the time 
of discharge. 

Disposition: discharge home today, given rapid improvement in 
his clinical condition and stability in blood counts he does not 
require a ___ night of hospitalization. 

Plan of care discussed with the patient and his son ___ at 
bedside. 

Time spent: 50 minutes 
 
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. benazepril 20 mg oral DAILY 
2. Senna with Docusate Sodium (sennosides-docusate sodium) 
8.6-50 mg oral DAILY 
3. amLODIPine 10 mg PO DAILY 
4. Multi-Day with Iron (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY 
5. Cyanocobalamin 500 mcg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  amLODIPine 10 mg PO DAILY  
2.  benazepril 20 mg oral DAILY  
3.  Cyanocobalamin 500 mcg PO DAILY  
4.  Multi-Day with Iron (multivitamin-iron-folic acid) ___ 
mg-mcg oral DAILY  
5.  Senna with Docusate Sodium (sennosides-docusate sodium) 
8.6-50 mg oral DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Rectal bleeding, likely hemorrhoidal
Hypertension 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr ___, 

___ were admitted to the hospital with bleeding from your 
rectum, which is attributed to hemorrhoids. Your blood counts 
remained stable and ___ were able to eat without any further 
bleeding and ___ had no pain. It is possible that ___ had what 
is called diverticular bleeding, or bleeding from specific parts 
of the colon, but ___ showed no evidence of this therefore ___ 
did not require a procedure. It is extremely important for ___ 
to continue taking your Colace on a regular basis to prevent 
straining when ___ go to the bathroom. Please see your PCP 
___ ___ weeks for a check up to make sure ___ are feeling 
well and to have a blood test. Your labwork is stable at the 
time of discharge. 

We wish ___ the best!

Sincerely, 
Your care team at ___ 
 
Followup Instructions:
___